* C:\users\vito\Documents\facu\4y\1Q\tps\assd\tp1\spice\ckt_tp1.asc
R1 N015 Vn 3k
R69 N015 Vp 5k
XU4 Vp Vn 0 supply Vp=5 Vn=5
XU3 N015 trian Vp Vn CLK 0 LM311/TI
R8 Vp CLK 4k7
XU2 N016 trian Vp Vn N014 TL082
R5 N016 0 10k
R9 N014 N016 11k6
R10 N014 trian 400
XU1 CLK nCLK Vp 0 inv2
XU5 sgn_faa CLK 0 Vn P001 sgn_snh Vp LF398H
V1 sgn_in 0 SINE(0 3.5 10k)
C1 P001 0 560p
XU6 N017 sgn_nat nCLK Vp Vn 54HC4016
R2 N017 sgn_snh 100m
R3 sgn_snh 0 10k
C3 sgn_snh 0 1p
R4 sgn_nat 0 10k
C4 sgn_nat 0 1p
R6 N001 N007 494
R7 N008 N001 494
C5 N002 N001 10n
C6 0 N008 10n
XU7 N008 N011 Vp Vn N002 TL082
Ra1 N002 N011 17k
Rb1 0 N011 10k
R11 N003 N002 600
R12 N009 N003 600
C7 N004 N003 10n
C8 0 N009 10n
XU8 N009 N012 Vp Vn N004 TL082
Ra2 N004 N012 10k
Rb2 0 N012 10k
R13 N005 N004 761
R14 N010 N005 761
C9 sgn_faa N005 10n
C10 0 N010 10n
XU10 N010 N013 Vp Vn sgn_faa TL082
Ra3 sgn_faa N013 10k
Rb3 0 N013 55k
C2 trian 0 10n IC=1
R25 N006 sgn_in 5k3
R26 0 N006 1k
XU15 N006 N007 Vp Vn N007 TL082
R15 N018 N024 494
R16 N025 N018 494
C11 N019 N018 10n
C12 0 N025 10n
XU9 N025 N028 Vp Vn N019 TL082
Ra4 N019 N028 17k
Rb4 0 N028 10k
R17 N020 N019 600
R18 N026 N020 600
C13 N021 N020 10n
C14 0 N026 10n
XU11 N026 N029 Vp Vn N021 TL082
Ra5 N021 N029 10k
Rb5 0 N029 10k
R19 N022 N021 761
R20 N027 N022 761
C15 sgn_recup N022 10n
C16 0 N027 10n
XU12 N027 N030 Vp Vn sgn_recup TL082
Ra6 sgn_recup N030 10k
Rb6 0 N030 55k
R21 N023 sgn_nat 5k3
R22 0 N023 1k
XU13 N023 N024 Vp Vn N024 TL082
.tran 0 400u 200u 10u
* .ac dec 1000 10k 100k
* .step param rv 455 800 120
* f0=32k
* f0=26k
* f0=20k
* T = R10 * C2
* f0=32k
* f0=26k
* f0=20k
.lib C:\users\vito\Documents\LTspice\Libraries\ana_swit.lib
.lib C:\users\vito\Documents\LTspice\Libraries\LTSpiceASSDLib.lib
.lib HC_TNOMI.CIR
.lib TCLib/LM311.lib
.lib TCLib/supply.lib
.lib TCLib/TL082.lib
.backanno
.end
